US06949563B2
N-(4-trifluoromethoxyphenyl) 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide:
A solution of N-(4-trifluoromethoxyphenyl) 3-aminothiophene-2-carboxamide (1 g, 3.31 mmol) and quinoline-4-carboxaldehyde (347 mg, 2.21 mmol) in trifluoroacetic acid:dichloromethane (1:1, 30 mL) was heated at reflux for 2 h under nitrogen. The reaction was cooled to RT and triethylsilane (0.71 mL, 4.42 mmol) was added. The resulting solution was then stirred at reflux for 16 h under nitrogen. After cooling to RT, the reaction mixture was evaporated under reduced pressure and the residue was partitioned between ethyl acetate (3×100 mL) and saturated sodium bicarbonate solution (50 mL). The organic layers were dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel chromatography (20-30% ethyl acetate in hexane) to give EXAMPLE 1 as a light yellow solid, mp: 168-170° C. 1H-NMR (400 MHz/CDCl3):δ=5.01 (d, J=6.2 Hz, 2H), 6.56 (d, J=5.4 Hz, 1H), 7.12 (s, 1H), 7.22 (d, J=8.7 Hz, 2H), 7.25 (s, 1H), 7.44 (d, J=4.3 Hz, 1H), 7.58 (d, J=9.0 Hz, 2H), 7.62 (t, J=8.2 Hz, 1H), 7.76 (t, J=8.3 Hz, 1H), 8.02 (d, J=7.5 Hz, 2H), 8.17 (d, J=8.3 Hz, 1H), 8.86 (d, J=4.5 Hz, 1H). MS (ES+): 444 [MH+]. 13C-NMR (400 MHz/CDCl3): δ=45.9, 101.4, 117.9, 118.9, 119.5, 121.9, 122.0, 122.6, 126.5, 127.2, 129.1, 129.7, 130.6, 136.8, 144.5, 145.4, 148.3, 150.7, 155.9, 163.8. Anal. Calcd for C22H16F3N3O2S: C, 59.59; H, 3.64; N, 9.48; F, 12.85; S, 7.23. Found: C, 59.59; H, 3.67; N, 9.46; F, 13.01; S, 7.23.

reactant | N-(4-trifluoromethoxyphenyl) 3-aminothiophene-2-carboxamide | 3.31 mmol, 1 g | FC(OC1=CC=C(C=C1)NC(=O)C=1SC=CC1N)(F)F | C12H9F3N2O2S
reactant | quinoline-4-carboxaldehyde | 2.21 mmol, 347 mg | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | triethylsilane | 4.42 mmol, 0.71 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid dichloromethane | 30 mL | FC(C(=O)O)(F)F.ClCCl
product | N-(4-trifluoromethoxyphenyl) 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide | FC(OC1=CC=C(C=C1)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12)(F)F | C22H16F3N3O2S
